US04021441
In the manner given in Example 2, potassium iodide and 8-nitro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in tetrahydrofuran are treated with methylcyclopropylamine to give 8-nitro-1-[(cyclopropylmethylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-]1,4]benzodiazepine.

reactant | potassium iodide | [I-].[K+]
reactant | 8-nitro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl2N5O2
reactant | methylcyclopropylamine | CNC1CC1 | C4H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzodiazepine | N1N=CC=CC2=C1C=CC=C2 | C9H8N2
